US06747023B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-3-[[(morpholin-4-yl)carbonyl]methyl]piperazine hydrochloride
In the same manner as in Referential Example 319, an amid bond was formed using 1-tert-butoxycarbonyl-2-carboxymethyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine and morpholine as starting materials, followed by deprotection In the same manner as in Referential Example 1, whereby the title compound was obtained.

reactant | 1-tert-butoxycarbonyl-2-carboxymethyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)CC(=O)O | C21H25ClN2O6S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-3-[[(morpholin-4-yl)carbonyl]methyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)CC(=O)N1CCOCC1 | InChI=1S/C20H24ClN3O4S.ClH/c21-17-3-1-16-12-19(4-2-15(16)11-17)29(26,27)24-6-5-22-18(14-24)13-20(25)23-7-9-28-10-8-23;/h1-4,11-12,18,22H,5-10,13-14H2;1H
